US04904686
Ethyl 3-hydroxy-5-methylthiophene-2-carboxylate
Dry hydrogen chloride gas was bubbled through a mixture of ethyl acetoacetate (0.2 moles) and ethyl 2-mercaptoacetate (b 0.4 moles) at -10° C. until saturated. The oil was allowed to stand 4 days at room temperature. Then, 350 ml of 2N ethanolic KOH, was added drop-wise. The resultant mixture was added to 2 liters of ice-water, and acidified with 6M HCl until the pH was approximately 1. The precipitated oil was extracted with benzene, washed with water and dried with sodium sulphate. After removal of solvent the residue was distilled, b.p. 70°-75° C. (0.5 mm).

reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetoacetate | 0.2 moles | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | ethyl 2-mercaptoacetate | 0.4 moles | SCC(=O)OCC | C4H8O2S
reactant | KOH | 2N, 350 ml | [OH-].[K+]
reactant | HCl | 6M | Cl | ClH
product | Ethyl 3-hydroxy-5-methylthiophene-2-carboxylate | OC1=C(SC(=C1)C)C(=O)OCC | C8H10O3S
